### PR TITLE
feat: `Std.Sat.AIG`

### PR DESCRIPTION
**Pull request by hargoniX**
Step 2/~7 in upstreaming LeanSAT.

### CODE REVIEW

File: src/Std/Sat/AIG/Basic.lean [hunk 1]
```diff
@@ -0,0 +1,475 @@
...
+-/
+import Std.Data.HashMap
+import Std.Data.HashSet
+
+namespace Std
+namespace Sat
+
+/-!
+This module contains the basic definitions for an AIG (And-Inverter Graph) in the style of AIGNET,
+as described in https://arxiv.org/pdf/1304.7861.pdf section 3. It consists of an AIG definition,
```
Comment (tobiasgrosser) [inline src/Std/Sat/AIG/Basic.lean:14]:
```suggestion
This module contains the basic definitions for an AIG (And Inverter Graph) in the style of AIGNET,
as described in https://arxiv.org/pdf/1304.7861.pdf section 3. It consists of an AIG definition,
```

File: src/Std/Sat/AIG/Basic.lean [hunk 2]
```diff
@@ -0,0 +1,475 @@
...
+    . apply aig.inv <;> assumption
+    . injections
+      have := lhs.ref.hgate
+      have := rhs.ref.hgate
+      omega
+  ⟨{ aig with decls, inv, cache }, ⟨g, by simp [g, decls]⟩⟩
+
+/--
+Add a new input node to the AIG in `aig`. Note that his version is only meant for proving,
+for production purposes use `AIG.mkAtomCached` and equality theorems to this one.
```
Comment (tobiasgrosser) [inline src/Std/Sat/AIG/Basic.lean:440]:
```suggestion
Add a new input node to the AIG in `aig`. Note that this version is only meant for proving,
for production purposes use `AIG.mkAtomCached` and equality theorems to this one.
```

File: src/Std/Sat/AIG/Basic.lean [hunk 3]
```diff
@@ -0,0 +1,475 @@
...
+
+@[inline]
+def GateInput.cast {aig1 aig2 : AIG α} (input : GateInput aig1)
+    (h : aig1.decls.size ≤ aig2.decls.size) :
+    GateInput aig2 :=
+  { input with lhs := input.lhs.cast h, rhs := input.rhs.cast h }
+
+/--
+Build an AIG gate in `aig`. Note that his version is only meant for proving,
+for production purposes use `AIG.mkGateCached` and equality theorems to this one.
```
Comment (tobiasgrosser) [inline src/Std/Sat/AIG/Basic.lean:419]:
```suggestion
Build an AIG gate in `aig`. Note that this version is only meant for proving,
for production purposes use `AIG.mkGateCached` and equality theorems to this one.
```

File: src/Std/Sat/AIG/Basic.lean [hunk 4]
```diff
@@ -0,0 +1,475 @@
...
+    simp only [decls] at *
+    simp only [Array.get_push] at h2
+    split at h2
+    . apply aig.inv <;> assumption
+    . contradiction
+  ⟨{ decls, inv, cache }, ⟨g, by simp [g, decls]⟩⟩
+
+/--
+Build a constant node in `aig`. Note that his version is only meant for proving,
+for production purposes use `AIG.mkConstCached` and equality theorems to this one.
```
Comment (tobiasgrosser) [inline src/Std/Sat/AIG/Basic.lean:457]:
```suggestion
Build a constant node in `aig`. Note that his version is only meant for proving,
for production purposes use `AIG.mkConstCached` and equality theorems to this one.
```
```suggestion
Build a constant node in `aig`. Note that this version is only meant for proving,
for production purposes use `AIG.mkConstCached` and equality theorems to this one.
```

File: src/Std/Sat/AIG/CNF.lean [hunk 5]
```diff
@@ -0,0 +1,718 @@
...
+  -/
+  hmark : ∀ (lhs rhs : Nat) (linv rinv : Bool) (idx : Nat) (hbound : idx < aig.decls.size)
+            (_hmarked : marks[idx] = true) (heq : aig.decls[idx] = .gate lhs rhs linv rinv),
+              marks[lhs]'(by have := aig.inv idx lhs rhs linv rinv hbound heq; omega) = true
+                ∧
+              marks[rhs]'(by have := aig.inv idx lhs rhs linv rinv hbound heq; omega) = true
+  /--
+  Relate satisfiability results about our produced CNF to satisfiability results about the AIG that
+  we are processing. The intuition for this is: If a node is marked, its CNF (and all required
+  children CNFs according to `hmark`) are already part of the current CNF. Thus the current CNF is
```
Comment (tobiasgrosser) [inline src/Std/Sat/AIG/CNF.lean:150]:
```suggestion
  we are processing. The intuition for this is: if a node is marked, its CNF (and all required
  children CNFs according to `hmark`) are already part of the current CNF. Thus the current CNF is
```

File: src/Std/Sat/AIG/CachedGatesLemmas.lean [hunk 6]
```diff
@@ -0,0 +1,268 @@
...
+-/
+
+namespace Std
+namespace Sat
+
+namespace AIG
+
+/--
+Encoding not as boolean expression in AIG form.
+-/
```
Comment (tobiasgrosser) [inline src/Std/Sat/AIG/CachedGatesLemmas.lean:22]: `Encoding of not as boolean expression` or `Encode not as boolean expression`

The same comment applies below.

File: src/Std/Sat/AIG/If.lean [hunk 7]
```diff
@@ -0,0 +1,280 @@
...
+      ⟧
+        =
+      if ⟦aig, discr, assign⟧ then
+        ⟦aig, lhs.get idx hidx1, assign⟧
+      else
+        ⟦aig, rhs.get idx hidx1, assign⟧ := by
+  intro idx hidx1 hidx2
+  generalize hgo : go aig curr hcurr discr lhs rhs s = res
+  unfold go at hgo
+  dsimp at hgo
```
Comment (tobiasgrosser) [inline src/Std/Sat/AIG/If.lean:231]: Non-terminal simp?

File: src/Std/Sat/AIG/If.lean [hunk 8]
```diff
@@ -0,0 +1,280 @@
...
+  ∀ (idx : Nat) (hidx : idx < w),
+    ⟦(ite aig input).aig, (ite aig input).stream.get idx hidx, assign⟧
+      =
+    if ⟦aig, input.discr, assign⟧ then
+      ⟦aig, input.lhs.get idx hidx, assign⟧
+    else
+      ⟦aig, input.rhs.get idx hidx, assign⟧ := by
+  intro idx hidx
+  unfold ite
+  dsimp
```
Comment (tobiasgrosser) [inline src/Std/Sat/AIG/If.lean:270]: Non-terminal simp, or does this rule not apply for dsimp?

File: src/Std/Sat/AIG/If.lean [hunk 9]
```diff
@@ -0,0 +1,280 @@
...
+  rw [ite.denote_go]
+  omega
+
+
```
Comment (tobiasgrosser) [inline src/Std/Sat/AIG/If.lean:274]:
```suggestion

```

File: src/Std/Sat/AIG/RefStream.lean [hunk 10]
```diff
@@ -0,0 +1,188 @@
...
+  ⟩
+
+@[simp]
+theorem get_push_ref_eq (s : RefStream aig len) (ref : AIG.Ref aig) :
+    (s.push ref).get len (by omega) = ref := by
+  have := s.hlen
+  simp [get, push, ← this]
+
+-- This variant exists because it is sometimes hard to rewrite properly with DTT
+theorem get_push_ref_eq' (s : RefStream aig len) (ref : AIG.Ref aig) (idx : Nat)
```
Comment (tobiasgrosser) [inline src/Std/Sat/AIG/RefStream.lean:75]:
```suggestion
-- This variant exists because it is sometimes hard to rewrite properly with DTT.
theorem get_push_ref_eq' (s : RefStream aig len) (ref : AIG.Ref aig) (idx : Nat)
```

File: src/Std/Sat/AIG/RefStreamOperator/Map.lean [hunk 11]
```diff
@@ -0,0 +1,239 @@
...
+  termination_by len - idx
+
+theorem map.go_le_size {aig : AIG α} (idx : Nat) (hidx) (s : RefStream aig idx)
+    (input : RefStream aig len) (f : (aig : AIG α) → Ref aig → Entrypoint α)
+    [LawfulOperator α Ref f] [LawfulMapOperator α f] :
+    aig.decls.size ≤ (go aig idx hidx s input f).aig.decls.size := by
+  unfold go
+  split
+  . next h =>
+    dsimp
```
Comment (tobiasgrosser) [inline src/Std/Sat/AIG/RefStreamOperator/Map.lean:86]: Non-terminal simp?

File: src/Std/Sat/AIG/RefStreamOperator/Map.lean [hunk 12]
```diff
@@ -0,0 +1,239 @@
...
+  le_size := by intros; apply map_le_size
+  decl_eq := by intros; apply map_decl_eq
+
+namespace map
+
+theorem go_get_aux {aig : AIG α} (curr : Nat) (hcurr : curr ≤ len) (s : RefStream aig curr)
+    (input : RefStream aig len) (f : (aig : AIG α) → Ref aig → Entrypoint α)
+    [LawfulOperator α Ref f] [LawfulMapOperator α f] :
+    -- The hfoo here is a trick to make the dependent type gods happy
+    ∀ (idx : Nat) (hidx : idx < curr) (hfoo),
```
Comment (tobiasgrosser) [inline src/Std/Sat/AIG/RefStreamOperator/Map.lean:136]:
```suggestion
    -- The hfoo here is a trick to make the dependent type gods happy.
    ∀ (idx : Nat) (hidx : idx < curr) (hfoo),
```

File: src/Std/Sat/AIG/RefStreamOperator/Map.lean [hunk 13]
```diff
@@ -0,0 +1,239 @@
...
+      (go aig curr hcurr s input f).stream.get idx (by omega)
+        =
+      (s.get idx hidx).cast hfoo := by
+  intro idx hidx
+  generalize hgo : go aig curr hcurr s input f = res
+  unfold go at hgo
+  split at hgo
+  . dsimp at hgo
```
Comment (tobiasgrosser) [inline src/Std/Sat/AIG/RefStreamOperator/Map.lean:144]: Non-terminal dsimp? There are more, but I won't list them again.

File: src/Std/Sat/AIG/RelabelNat.lean [hunk 14]
```diff
@@ -0,0 +1,385 @@
...
+  . omega
+  · apply ofAIG.Inv2
+
+end State
+end RelabelNat
+
+def relabelNat' (aig : AIG α) : (AIG Nat × HashMap α Nat) :=
+  let map := RelabelNat.State.ofAIG aig
+  let aig := aig.relabel fun x =>
+    -- The none branch never gets hit, we prove this below
```
Comment (tobiasgrosser) [inline src/Std/Sat/AIG/RelabelNat.lean:306]:
```suggestion
    -- The none branch never gets hit, we prove this below.
```

File: src/Std/Sat/AIG/RelabelNat.lean [hunk 15]
```diff
@@ -0,0 +1,385 @@
...
+      aig := entry.aig.relabelNat
+      ref.hgate := by simp[entry.ref.hgate]
+  }
+
+/--
+`relabelNat` preserves unsatisfiablility.
+-/
+theorem relabelNat_unsat_iff {entry : Entrypoint α} [Nonempty α] :
+    (entry.relabelNat).Unsat ↔ entry.Unsat:= by
+  simp [relabelNat, Unsat]
```
Comment (tobiasgrosser) [inline src/Std/Sat/AIG/RelabelNat.lean:378]: Non terminal simp.

**Review by tobiasgrosser — COMMENTED** [review]
Very nicely prepared patch and a big step forward.  🥳  I left some stylistic comments.

File: src/Std/Sat/AIG/If.lean (hunk 7 above)
Comment (hargoniX) [reply src/Std/Sat/AIG/If.lean:231]: `dsimp` only applies definitional reductions if not provided with arguments as far as I know?. Its job here is to reduce the tons of lets that are in the term to a single let free term that I can rewrite on.

File: src/Std/Sat/AIG/Basic.lean [hunk 16]
```diff
@@ -0,0 +1,475 @@
...
+  -/
+  decls : Array (AIG.Decl α)
+  /--
+  The `Decl` cache, valid with respect to `decls`.
+  -/
+  cache : AIG.Cache α decls
+  /--
+  In order to be a valid AIG, `decls` must form a DAG.
+  -/
+  inv : AIG.IsDag α decls
```
Comment (bollu) [inline src/Std/Sat/AIG/Basic.lean:220]: Quick question: why is this called `inv`? An explanation would be nice. Is it `inv` for invariant? I would have expected something like `hdag`.

File: src/Std/Sat/AIG/Basic.lean [hunk 17]
```diff
@@ -0,0 +1,475 @@
...
+  refs : Array Nat
+  hlen : refs.size = length
+  hrefs : ∀ (h : i < length), refs[i] < aig.decls.size
+
+/--
+A sequence of references bundled with their AIG. In some sense a generalization of `Entrypoint`.
+-/
+structure RefStreamEntry (α : Type) [DecidableEq α] [Hashable α] [DecidableEq α] (length : Nat) where
+  aig : AIG α
+  stream : RefStream aig length
```
Comment (bollu) [inline src/Std/Sat/AIG/Basic.lean:332]: Can `length` be renamed to `w` for consistency, or will this break too much downstream? :)

File: src/Std/Sat/AIG/Basic.lean [hunk 18]
```diff
@@ -0,0 +1,475 @@
...
+      have := h2 x _ _ _ _ h1 h3
+      let lval := go lhs decls assign (by omega) h2
+      let rval := go rhs decls assign (by omega) h2
+      xor lval linv && xor rval rinv
+
+scoped syntax "⟦" term ", " term "⟧" : term
+scoped syntax "⟦" term ", " term ", " term "⟧" : term
+
+macro_rules
+| `(⟦$entry, $assign⟧) => `(denote $assign $entry )
```
Comment (bollu) [inline src/Std/Sat/AIG/Basic.lean:369]:
```suggestion
| `(⟦$entry, $assign⟧) => `(denote $assign $entry)
```

stray whitespace?

File: src/Std/Sat/AIG/Basic.lean [hunk 19]
```diff
@@ -0,0 +1,475 @@
...
+| `(⟦$aig, $ref, $assign⟧) => `(denote $assign (Entrypoint.mk $aig $ref))
+
+@[app_unexpander AIG.denote]
+def unexpandDenote : Lean.PrettyPrinter.Unexpander
+  | `($(_) {aig := $aig, start := $start, inv := $hbound} $assign) =>
+    `(⟦$aig, ⟨$start, $hbound⟩, $assign⟧)
+  | `($(_) $entry $assign) => `(⟦$entry, $assign⟧)
+  | _ => throw ()
+
+def UnsatAt (aig : AIG α) (start : Nat) (h : start < aig.decls.size) : Prop :=
```
Comment (bollu) [inline src/Std/Sat/AIG/Basic.lean:379]:
```suggestion
/--
The denotation of the sub-DAG in the `aig` at node `start` is false for all assignments.
-/
def UnsatAt (aig : AIG α) (start : Nat) (h : start < aig.decls.size) : Prop :=
```

File: src/Std/Sat/AIG/CNF.lean [hunk 20]
```diff
@@ -0,0 +1,718 @@
...
+          split at hmarked
+          . simp_all
+          . have := cache.inv.hmark lhs rhs linv rinv idx hbound hmarked heq
+            simp [Array.getElem_set, this]
+        . intro assign heval idx hbound hmarked
+          rw [Array.getElem_set] at hmarked
+          split at hmarked
+          . next heq =>
+            simp at heq
+            simp [heq] at htip heval
```
Comment (bollu) [inline src/Std/Sat/AIG/CNF.lean:287]: These look like non terminal simps.

File: src/Std/Sat/AIG/CNF.lean [hunk 21]
```diff
@@ -0,0 +1,718 @@
...
+            simp [heval, denote_idx_const htip]
+          . next heq =>
+            simp at heval
```
Comment (bollu) [inline src/Std/Sat/AIG/CNF.lean:290]: non-terminal simp?

Comment (bollu) [reply src/Std/Sat/AIG/CNF.lean:290]: I think the pattern of 

```
simp at heq
simp [heq] at htip heval
```

occurs in every proof that shows that `inv` is preserved. and they all appear to be non-terminal to me.

File: src/Std/Sat/AIG/Basic.lean [hunk 22]
```diff
@@ -0,0 +1,475 @@
...
+structure ShiftTarget (aig : AIG α) (w : Nat) where
+  stream : AIG.RefStream aig w
+  distance : Nat
+
+structure ArbitraryShiftTarget (aig : AIG α) (m : Nat) where
+  n : Nat
+  target : AIG.RefStream aig m
+  distance : AIG.RefStream aig n
+
+structure ExtendTarget (aig : AIG α) (newWidth : Nat) where
```
Comment (TwoFX) [inline src/Std/Sat/AIG/Basic.lean:342]: You're defining a lot of structures in this file, some of which aren't used in this PR. Are they used later in the development? For some of them I'm also wondering whether bundling this data together is really worth it.

File: src/Std/Sat/AIG/If.lean (hunk 7 above)
Comment (TwoFX) [reply src/Std/Sat/AIG/If.lean:231]: I think `dsimp only at hgo` is the way to go here.

**Review by bollu — COMMENTED** [review]
Thanks for the super clean implementation! I've read upon `CNF.lean`, and will get to the others in a bit.

File: src/Std/Sat/AIG/Basic.lean (hunk 16 above)
Comment (hargoniX) [reply src/Std/Sat/AIG/Basic.lean:220]: Yes it's the invariant for the AIG

File: src/Std/Sat/AIG/If.lean [hunk 23]
```diff
@@ -0,0 +1,278 @@
...
+where
+  go {w : Nat} (aig : AIG α) (curr : Nat) (hcurr : curr ≤ w) (discr : Ref aig)
+      (lhs rhs : RefStream aig w) (s : RefStream aig curr) : RefStreamEntry α w :=
+    if hcurr:curr < w then
+      let input := ⟨discr, lhs.get curr hcurr, rhs.get curr hcurr⟩
+      let res := mkIfCached aig input
+      let aig := res.aig
+      let ref := res.ref
+      have := by
+        apply LawfulOperator.le_size (f := mkIfCached)
```
Comment (TwoFX) [inline src/Std/Sat/AIG/If.lean:105]: I have to say I don't love this pattern of shadowing a variable, reaching a goal that cannot be written down and then doing some arcane invocation that just happens to have the right type. I would prefer something like
```suggestion
      have : aig.decls.size ≤ res.aig.decls.size :=
        LawfulOperator.le_size (f := mkIfCached) ..
```

File: src/Std/Sat/AIG/Basic.lean [hunk 24]
```diff
@@ -0,0 +1,475 @@
...
+  { input with lhs := input.lhs.cast h, rhs := input.rhs.cast h }
+
+/--
+Build an AIG gate in `aig`. Note that this version is only meant for proving,
+for production purposes use `AIG.mkGateCached` and equality theorems to this one.
+-/
+def mkGate (aig : AIG α) (input : GateInput aig) : Entrypoint α :=
+  let lhs := input.lhs
+  let rhs := input.rhs
+  let g := aig.decls.size
```
Comment (TwoFX) [inline src/Std/Sat/AIG/Basic.lean:426]: This applies to many functions, but why do you have so many `let`s for things that are then only used once downstream? I don't think it really improves readability much.

File: src/Std/Sat/AIG/LawfulStreamOperator.lean [hunk 25]
```diff
@@ -0,0 +1,91 @@
...
+import Std.Sat.AIG.RefStream
+
+namespace Std
+namespace Sat
+
+namespace AIG
+
+variable {α : Type} [Hashable α] [DecidableEq α]
+
+-- TODO: Find a way to merge this with LawfulOperator that preserves nice automation
```
Comment (TwoFX) [inline src/Std/Sat/AIG/LawfulStreamOperator.lean:16]: Another TODO that should be resolved in some way.

File: src/Std/Sat/AIG/Lemmas.lean [hunk 26]
```diff
@@ -0,0 +1,292 @@
...
+    ⟦aig, ⟨idx, hidx⟩, assign1⟧ = ⟦aig, ⟨idx, hidx⟩, assign2⟧ := by
+  apply denote_idx_trichotomy
+  . intro b heq
+    simp [denote_idx_const heq]
+  . intro a heq
+    simp only [denote_idx_atom heq]
+    apply h
+    rw [mem_def]
+    rw [← heq]
+    rw [Array.mem_def]
```
Comment (TwoFX) [inline src/Std/Sat/AIG/Lemmas.lean:281]: These three can be combined into one.

File: src/Std/Sat/AIG/Basic.lean (hunk 22 above)
Comment (hargoniX) [reply src/Std/Sat/AIG/Basic.lean:342]: Yes, these are all used in the bit blasting part. They are mostly bundled because I need my functions to be a lawful operator which only takes one argument.

File: src/Std/Sat/AIG/Cached.lean [hunk 27]
```diff
@@ -0,0 +1,134 @@
...
+    have := input.rhs.ref.hgate
+    let decl := .gate lhs rhs linv rinv
+    match cache.get? decl with
+    | some hit =>
+      ⟨⟨decls, cache, inv⟩, ⟨hit.idx, hit.hbound⟩⟩
+    | none =>
+      /-
+      Here we implement the constant propagating subset of:
+      https://fmv.jku.at/papers/BrummayerBiere-MEMICS06.pdf
+      TODO: rest of the table
```
[the remark this answers is not in the document]
Comment (hargoniX) [reply src/Std/Sat/AIG/Cached.lean:98]: Yes.

File: src/Std/Sat/AIG/Basic.lean [hunk 28]
```diff
@@ -0,0 +1,475 @@
...
+      (idx : Fin decls.size) : String :=
+    match decls[idx] with
+    | Decl.const b => s!"{idx} [label=\"{b}\", shape=box];"
+    | Decl.atom i => s!"{idx} [label=\"{i}\", shape=doublecircle];"
+    | Decl.gate _ _ _ _ => s!"{idx} [label=\"{idx} ∧\",shape=trapezium];"
+
+/--
+A stream of references into `aig`. This is the `AIG` analog of `BitVec`.
+-/
+structure RefStream (aig : AIG α) (length : Nat) where
```
[the remark this answers is not in the document]
Comment (hargoniX) [reply src/Std/Sat/AIG/Basic.lean]: No particular reason, do you have an alternative naming suggestion?

[the remark this answers is not in the document]
Comment (hargoniX) [reply src/Std/Sat/AIG/Basic.lean]: If I had `Array Ref` I would have to iterate over the thing every time that the underlying AIG changes and apply `Ref.cast`. This would unnecessarily be `O(n)` and we could of course `implementedBy` this away but that would increase the trust required by LeanSAT. With it done like this the underlying AIG can change and we can update the proof for free all the time.

File: src/Std/Sat/AIG/If.lean (hunk 23 above)
Comment (hargoniX) [reply src/Std/Sat/AIG/If.lean:105]: The shadowing of the variable is a stylistic choice such that I don't violate the linearity on `AIG` ever, simply because I can only ever reference one `AIG` at a time anyways. This is used basically all throughout the bitblaster as well to ensure linearity by convention. Do you have an alternative idea for a style that makes these linearity mistakes hard to do?

File: src/Std/Sat/AIG/Basic.lean (hunk 24 above)
Comment (hargoniX) [reply src/Std/Sat/AIG/Basic.lean:426]: In this particular function there is no precise reason. In the functions that work on AIGs see my remarks about shadowing etc.

File: src/Std/Sat/AIG/Basic.lean (hunk 28 above)
[the remark this answers is not in the document]
Comment (TwoFX) [reply src/Std/Sat/AIG/Basic.lean]: `Vector` or `Vec` maybe?

[the remark this answers is not in the document]
Comment (TwoFX) [reply src/Std/Sat/AIG/Basic.lean]: I see, thanks for the explanation.

File: src/Std/Sat/AIG/Basic.lean (hunk 24 above)
Comment (TwoFX) [reply src/Std/Sat/AIG/Basic.lean]: Makes sense, thanks for the explanation.

File: src/Std/Sat/AIG/LawfulStreamOperator.lean (hunk 25 above)
Comment (TwoFX) [reply src/Std/Sat/AIG/LawfulStreamOperator.lean:16]: Yes, I think you can just remote this TODO.

File: src/Std/Sat/AIG/If.lean (hunk 23 above)
Comment (TwoFX) [reply src/Std/Sat/AIG/If.lean:105]: Okay, you have convinced me.
```suggestion
      have := LawfulOperator.le_size (f := mkIfCached) ..
```
should also work I think.

File: src/Std/Sat/AIG/Basic.lean (hunk 22 above)
Comment (TwoFX) [reply src/Std/Sat/AIG/Basic.lean:358]: Ah, I see, thanks. No need to change anything for now.

File: src/Std/Sat/AIG/If.lean (hunk 23 above)
Comment (semorrison) [reply src/Std/Sat/AIG/If.lean:105]: Could you write something, perhaps in the module-doc, explaining this?

File: src/Std/Sat/AIG/Basic.lean [hunk 29]
```diff
@@ -0,0 +1,506 @@
...
+  -/
+  | const (b : Bool)
+  /--
+  An input node to the circuit.
+  -/
+  | atom (idx : α)
+  /--
+  An AIG gate with configurable input nodes and polarity. `l` and `r` are the
+  input node indices while `linv` and `rinv` say whether there is an inverter on
+  the left or right input.
```
Comment (semorrison) [inline src/Std/Sat/AIG/Basic.lean:37]:
```suggestion
  the left and right inputs, respectively.
```

File: src/Std/Sat/AIG/Basic.lean [hunk 30]
```diff
@@ -0,0 +1,506 @@
...
+as described in https://arxiv.org/pdf/1304.7861.pdf section 3. It consists of an AIG definition,
+a description of its semantics and basic operations to construct nodes in the AIG.
+-/
+
+variable {α : Type} [Hashable α] [DecidableEq α]
+
+namespace AIG
+
+/--
+A circuit node declaration. These are not recursive but instead contain indices into an `AIG`, with inputs indexed by `α`.
```
Comment (semorrison) [inline src/Std/Sat/AIG/Basic.lean:23]: Why are you calling these "node declarations" rather than just "nodes"?

File: src/Std/Sat/AIG/Basic.lean [hunk 31]
```diff
@@ -0,0 +1,506 @@
...
+  the left or right input.
+  -/
+  | gate (l r : Nat) (linv rinv : Bool)
+  deriving Hashable, Repr, DecidableEq, Inhabited
+
+
+/--
+A `Cache` is valid with respect to a list of declarations iff:
+Whenever `cache.find? decl` returns an index into `xs : Array Decl`, `xs[index] = decl`.
+This predicate limits a `HashMap Decl Nat` to this behavior.
```
Comment (semorrison) [inline src/Std/Sat/AIG/Basic.lean:46]:
```suggestion
A `Cache` is valid with respect to an array of declarations if
whenever `cache.find? decl` returns an index into `xs : Array Decl`, `xs[index] = decl`.
This predicate limits a `HashMap Decl Nat` to this behavior.
```

(When giving definitions of terms in prose, "iff" is implied.)

File: src/Std/Sat/AIG/Basic.lean [hunk 32]
```diff
@@ -0,0 +1,506 @@
...
+  input node indices while `linv` and `rinv` say whether there is an inverter on
+  the left or right input.
+  -/
+  | gate (l r : Nat) (linv rinv : Bool)
+  deriving Hashable, Repr, DecidableEq, Inhabited
+
+
+/--
+A `Cache` is valid with respect to a list of declarations iff:
+Whenever `cache.find? decl` returns an index into `xs : Array Decl`, `xs[index] = decl`.
```
Comment (semorrison) [inline src/Std/Sat/AIG/Basic.lean:45]:
```suggestion
A `Cache` is valid with respect to an array of declarations if
whenever `cache.find? decl` returns an index into `xs : Array Decl`, `xs[index] = decl`.
```

(When giving definitions of terms in prose, "iff" is implied.)

File: src/Std/Sat/AIG/Basic.lean (hunk 31 above)
Comment (semorrison) [inline src/Std/Sat/AIG/Basic.lean:46]:
```suggestion
`Cache.WF xs` is a predicate asserting that a `cache : HashMap (Decl α) Nat`
is a valid lookup cache for `xs : Array (Decl α)`, that is,
whenever `cache.find? decl` returns an index into `xs : Array Decl`, `xs[index] = decl`.
```

(My concern here is that your original docstring starts by talking about `Cache`, which hasn't otherwise been mentioned yet.)

Comment (semorrison) [reply src/Std/Sat/AIG/Basic.lean:46]: Maybe explicitly say that it doesn't need to be complete? Something like
"It need not be complete, in the sense that `cache.find? decl = none` is allowed even when `decl \mem xs`."

File: src/Std/Sat/AIG/Basic.lean [hunk 33]
```diff
@@ -0,0 +1,506 @@
...
+  -/
+  | empty : WF decls {}
+  /--
+  Given a `cache`, valid with respect to some `decls`, we can extend the `decls` without
+  extending the cache and remain valid.
+  -/
+  | push_id (h : WF decls cache) : WF (decls.push decl) cache
+  /--
+  Given a `cache`, valid with respect to some `decls`, we can extend the `decls`
+  and the `cache` at the same time with the same values and remaind valid.
```
Comment (semorrison) [inline src/Std/Sat/AIG/Basic.lean:60]:
```suggestion
  and the `cache` at the same time with the same values and remain valid.
```

File: src/Std/Sat/AIG/Basic.lean [hunk 34]
```diff
@@ -0,0 +1,506 @@
...
+-/
+@[irreducible]
+def Cache.empty (decls : Array (Decl α)) : Cache α decls := ⟨{}, WF.empty⟩
+
+@[inherit_doc Cache.WF.push_id, irreducible]
+def Cache.noUpdate (cache : Cache α decls) : Cache α (decls.push decl) :=
+  ⟨cache.val, Cache.WF.push_id cache.property⟩
+
+/-
+We require the `decls` as an explicit attribute because we use `decls.size` so accidentally mutating
```
Comment (semorrison) [inline src/Std/Sat/AIG/Basic.lean:81]:
```suggestion
We require the `decls` as an explicit argument because we use `decls.size` so accidentally mutating
```

File: src/Std/Sat/AIG/Basic.lean [hunk 35]
```diff
@@ -0,0 +1,506 @@
...
+    idx < decls.size := by
+  rcases c with ⟨cache, hcache⟩
+  induction hcache with
+  | empty => simp at hfound
+  | push_id wf ih =>
+    specialize ih hfound
+    simp
+    omega
+  | push_cache wf ih =>
+    rename_i decl'
```
Comment (semorrison) [inline src/Std/Sat/AIG/Basic.lean:111]: I guess this is actually uglier? (I am always sad about `rename_i`.)

```suggestion
  | @push_cache _ _ decl' wf ih =>
```

File: src/Std/Sat/AIG/Basic.lean [hunk 36]
```diff
@@ -0,0 +1,506 @@
...
+    simp only [HashMap.getElem?_insert] at hfound
+    match heq:decl == decl' with
```
Comment (semorrison) [inline src/Std/Sat/AIG/Basic.lean:113]:
```suggestion
    match heq : decl == decl' with
```

File: src/Std/Sat/AIG/Basic.lean [hunk 37]
```diff
@@ -0,0 +1,506 @@
...
+    | true =>
+      simp only [beq_iff_eq] at heq
+      simp only [heq, beq_self_eq_true, ↓reduceIte, Option.some.injEq] at hfound
+      simp
+      omega
+    | false =>
+      simp only [BEq.symm_false heq, Bool.false_eq_true, ↓reduceIte] at hfound
+      specialize ih hfound
+      simp
+      omega
```
Comment (semorrison) [inline src/Std/Sat/AIG/Basic.lean:123]: Perhaps:
```suggestion
    simp only [HashMap.getElem?_insert, beq_iff_eq] at hfound
    split at hfound <;> rename_i h
    · subst h
      simp_all
    · specialize ih hfound
      simp
      omega
```

File: src/Std/Sat/AIG/Basic.lean (hunk 36 above)
Comment (semorrison) [reply src/Std/Sat/AIG/Basic.lean:113]: Also below.

File: src/Std/Sat/AIG/Basic.lean [hunk 38]
```diff
@@ -0,0 +1,506 @@
...
+  -/
+  match hfound:cache.val[decl]? with
+  | some hit =>
+    some ⟨hit, Cache.get?_bounds _ _ hfound, Cache.get?_property _ _ hfound⟩
+  | none => none
+
+/--
+An `Array Decl` is a Direct Acyclic Graph (DAG) if a gate at index `i` only points to nodes with index lower than `i`.
+-/
+def IsDag (α : Type) (decls : Array (Decl α)) : Prop :=
```
Comment (semorrison) [inline src/Std/Sat/AIG/Basic.lean:190]: Maybe `IsDAG`? Don't really mind.

Comment (semorrison) [reply src/Std/Sat/AIG/Basic.lean:190]: ("Dag" is a word in Australian English. :-)

File: src/Std/Sat/AIG/Basic.lean [hunk 39]
```diff
@@ -0,0 +1,506 @@
...
+  it either in `whnf` or in the kernel. This causes *huge* performance issues in practice.
+  The function can still be fully verified as all the proofs we need are in `CacheHit`.
+  -/
+  match hfound:cache.val[decl]? with
+  | some hit =>
+    some ⟨hit, Cache.get?_bounds _ _ hfound, Cache.get?_property _ _ hfound⟩
+  | none => none
+
+/--
+An `Array Decl` is a Direct Acyclic Graph (DAG) if a gate at index `i` only points to nodes with index lower than `i`.
```
Comment (semorrison) [inline src/Std/Sat/AIG/Basic.lean:188]: This uses "gate" and "node", but probably should say "node" both times?

File: src/Std/Sat/AIG/Basic.lean [hunk 40]
```diff
@@ -0,0 +1,506 @@
...
+-/
+theorem IsDag.empty {α : Type} : IsDag α #[] := by
+  intro i lhs rhs linv rinv h
+  simp only [Array.size_toArray, List.length_nil] at h
+  omega
+
+end AIG
+
+/--
+An And Inverter Graph (AIG α) together with a cache for subterm sharing.
```
Comment (semorrison) [inline src/Std/Sat/AIG/Basic.lean:205]:
```suggestion
An And Inverter Graph (`AIG α`) together with a cache for subterm sharing.
```
but maybe just drop the parenthetical?

File: src/Std/Sat/AIG/Basic.lean (hunk 16 above)
Comment (semorrison) [reply src/Std/Sat/AIG/Basic.lean:219]: I had to click "show resolved" because I had exactly the same confusion. :-) Perhaps worth renaming.

File: src/Std/Sat/AIG/Basic.lean [hunk 41]
```diff
@@ -0,0 +1,506 @@
...
+/--
+The atom `a` occurs in `aig`.
+-/
+def Mem (a : α) (aig : AIG α) : Prop := (.atom a) ∈ aig.decls
+
+instance : Membership α (AIG α) where
+  mem := Mem
+
+/--
+A reference to a node within an AIG. This is the `AIG` analog of `Bool`.
```
Comment (semorrison) [inline src/Std/Sat/AIG/Basic.lean:237]: I don't understand the intent of "This is the `AIG` analog of `Bool`."

File: src/Std/Sat/AIG/Basic.lean [hunk 42]
```diff
@@ -0,0 +1,506 @@
...
+      (idx : Fin decls.size) : String :=
+    match decls[idx] with
+    | Decl.const b => s!"{idx} [label=\"{b}\", shape=box];"
+    | Decl.atom i => s!"{idx} [label=\"{i}\", shape=doublecircle];"
+    | Decl.gate _ _ _ _ => s!"{idx} [label=\"{idx} ∧\",shape=trapezium];"
+
+/--
+A stream of references into `aig`. This is the `AIG` analog of `BitVec`.
+-/
+structure RefStream (aig : AIG α) (w : Nat) where
```
Comment (semorrison) [inline src/Std/Sat/AIG/Basic.lean:337]: My vote is for not using "stream" here.

File: src/Std/Sat/AIG/Basic.lean [hunk 43]
```diff
@@ -0,0 +1,506 @@
...
+  refs : Array Nat
+  hlen : refs.size = w
+  hrefs : ∀ (h : i < w), refs[i] < aig.decls.size
+
+/--
+A sequence of references bundled with their AIG. In some sense a generalization of `Entrypoint`.
```
Comment (semorrison) [inline src/Std/Sat/AIG/Basic.lean:343]:
```suggestion
A sequence of references bundled with their AIG. In some sense a generalization of `Entrypoint`.
```
Just drop "in some sense", or explain the sense. Otherwise it just costs reader time to work it out.

File: src/Std/Sat/AIG/Basic.lean (hunk 22 above)
Comment (semorrison) [reply src/Std/Sat/AIG/Basic.lean:358]: But I think we should nevertheless have doc-strings, even if just "an X bundled with Y".

File: src/Std/Sat/AIG/Basic.lean [hunk 44]
```diff
@@ -0,0 +1,506 @@
...
+  distance : AIG.RefStream aig n
+
+structure ExtendTarget (aig : AIG α) (newWidth : Nat) where
+  w : Nat
+  stream : AIG.RefStream aig w
+
+/--
+Evaluate an `AIG.Entrypoint` using some assignment for atoms.
+-/
+def denote (assign : α → Bool) (entry : Entrypoint α)  : Bool :=
```
Comment (semorrison) [inline src/Std/Sat/AIG/Basic.lean:365]:
```suggestion
def denote (assign : α → Bool) (entry : Entrypoint α) : Bool :=
```

File: src/Std/Sat/AIG/Basic.lean [hunk 45]
```diff
@@ -0,0 +1,506 @@
...
+    | .const b => b
+    | .atom v => assign v
+    | .gate lhs rhs linv rinv =>
+      have := h2 h1 h3
+      let lval := go lhs decls assign (by omega) h2
+      let rval := go rhs decls assign (by omega) h2
+      xor lval linv && xor rval rinv
+
+/--
+Denotation of an `AIG` at a specific `Ref`.
```
Comment (semorrison) [inline src/Std/Sat/AIG/Basic.lean:381]:
```suggestion
Denotation of an `AIG` at a specific `Entrypoint`.
```

File: src/Std/Sat/AIG/Basic.lean [hunk 46]
```diff
@@ -0,0 +1,506 @@
...
+-/
+scoped syntax "⟦" term ", " term "⟧" : term
+
+/--
+Denotation of an `AIG` at a specific `Ref` with the `Ref` being constructed on the fly.
```
Comment (semorrison) [inline src/Std/Sat/AIG/Basic.lean:386]: Maybe update too?

File: src/Std/Sat/AIG/Basic.lean [hunk 47]
```diff
@@ -0,0 +1,506 @@
...
+-/
+structure Fanin (aig : AIG α) where
+  /--
+  The node we are referring to.
+  -/
+  ref : Ref aig
+  /--
+  Whether the node is inverted
+  -/
+  inv : Bool
```
Comment (semorrison) [inline src/Std/Sat/AIG/Basic.lean:424]: cf. complaint about using `inv` above with a different meaning.

File: src/Std/Sat/AIG/Basic.lean [hunk 48]
```diff
@@ -0,0 +1,506 @@
...
+The `Ref.cast` equivalent for `Fanin`.
+-/
+@[inline]
+def Fanin.cast {aig1 aig2 : AIG α} (fanin : Fanin aig1)
+    (h : aig1.decls.size ≤ aig2.decls.size) :
+    Fanin aig2 :=
+  { fanin with ref := fanin.ref.cast h }
+
+/--
+The input type for creating AIG and gates from scratch.
```
Comment (semorrison) [inline src/Std/Sat/AIG/Basic.lean:436]: Not clear what "from scratch" means.

File: src/Std/Sat/AIG/Basic.lean [hunk 49]
```diff
@@ -0,0 +1,506 @@
...
+The `Ref.cast` equivalent for `GateInput`.
+-/
+@[inline]
+def GateInput.cast {aig1 aig2 : AIG α} (input : GateInput aig1)
+    (h : aig1.decls.size ≤ aig2.decls.size) :
+    GateInput aig2 :=
+  { input with lhs := input.lhs.cast h, rhs := input.rhs.cast h }
+
+/--
+Build an AIG gate in `aig`. Note that this version is only meant for proving,
```
Comment (semorrison) [inline src/Std/Sat/AIG/Basic.lean:452]:
```suggestion
Add a new and inverter gate to the AIG in `aig`. Note that this version is only meant for proving,
```

File: src/Std/Sat/AIG/Basic.lean [hunk 50]
```diff
@@ -0,0 +1,506 @@
...
+  have inv := by
+    intro i lhs rhs linv rinv h1 h2
+    simp only [Array.get_push] at h2
+    split at h2
+    . apply aig.inv <;> assumption
+    . contradiction
+  ⟨{ decls, inv, cache }, ⟨g, by simp [decls]⟩⟩
+
+/--
+Build a constant node in `aig`. Note that this version is only meant for proving,
```
Comment (semorrison) [inline src/Std/Sat/AIG/Basic.lean:488]:
```suggestion
Add a new constant node to `aig`. Note that this version is only meant for proving,
```

File: src/Std/Sat/AIG/CNF.lean [hunk 51]
```diff
@@ -0,0 +1,721 @@
...
+
+@[simp]
+theorem projectRightAssign_property :
+    (projectRightAssign assign) x hx = (assign <| .inr ⟨x, hx⟩) := by
+  simp [projectRightAssign]
+
+/--
+Given an atom assignment, produce an assignment that will always satisfy the CNF generated by our
+Tseitin transformation. This is done by combining the atom assignment with an assignment for the
+auxiliary variables, that just evaluates the AIG at the corresponding node.
```
Comment (semorrison) [inline src/Std/Sat/AIG/CNF.lean:120]:
```suggestion
Tseitin transformation. This is done by combining the atom assignment with an assignment for the
auxiliary variables, that just evaluating the AIG at the corresponding node.
```

File: src/Std/Sat/AIG/CNF.lean [hunk 52]
```diff
@@ -0,0 +1,721 @@
...
+      omega
+    | inr =>
+      dsimp only [inj] at h
+      congr
+      omega
+
+/--
+The node that we started CNF conversion at will always be marked as visited in the CNF cache.
+-/
+theorem toCNF.go_marked :
```
Comment (semorrison) [inline src/Std/Sat/AIG/CNF.lean:656]: Being excessively obsessive about naming, this could just be `go_marks`. :-)

File: src/Std/Sat/AIG/CNF.lean [hunk 53]
```diff
@@ -0,0 +1,721 @@
...
+Connect SAT results about the CNF to SAT results about the AIG.
+-/
+theorem toCNF.go_as_denote (aig : AIG Nat) (start) (h1) (assign1) :
+    ((⟦aig, ⟨start, h1⟩, assign1⟧ && (go aig start h1 (.empty aig)).val.eval (cnfSatAssignment aig assign1)) = sat?)
+      →
+    (⟦aig, ⟨start, h1⟩, assign1⟧ = sat?) := by
+  intro h
+  have := go_sat aig start h1 assign1 (.empty aig)
+  simp only [State.Sat, CNF.sat_def] at this
+  simpa [this] using h
```
Comment (semorrison) [inline src/Std/Sat/AIG/CNF.lean:680]: The logic here is a bit weird? The first fact here is the interesting one, then it's just logic puzzle?
```
theorem toCNF.go_as_denote' (aig : AIG Nat) (start) (h1) (assign1) :
    ⟦aig, ⟨start, h1⟩, assign1⟧ → (go aig start h1 (.empty aig)).val.eval (cnfSatAssignment aig assign1) := by
  have := go_sat aig start h1 assign1 (.empty aig)
  simp only [State.Sat, CNF.sat_def] at this
  simp [this] 

/--
Connect SAT results about the CNF to SAT results about the AIG.
-/
theorem toCNF.go_as_denote (aig : AIG Nat) (start) (h1) (assign1) :
    ((⟦aig, ⟨start, h1⟩, assign1⟧ && (go aig start h1 (.empty aig)).val.eval (cnfSatAssignment aig assign1)) = sat?)
      →
    (⟦aig, ⟨start, h1⟩, assign1⟧ = sat?) := by
  have := go_as_denote' aig start h1 assign1
  by_cases CNF.eval (cnfSatAssignment aig assign1) (go aig start h1 (State.empty aig)).val.cnf <;> simp_all
```

File: src/Std/Sat/AIG/Cached.lean (hunk 27 above)
[the remark this answers is not in the document]
Comment (semorrison) [reply src/Std/Sat/AIG/Cached.lean:96]: Maybe make clear whether this is part of the current progression of PRs, or work to be done later?

File: src/Std/Sat/AIG/CachedGates.lean [hunk 54]
```diff
@@ -0,0 +1,189 @@
...
+
+namespace AIG
+
+variable {α : Type} [Hashable α] [DecidableEq α]
+
+/--
+Create a not gate in the input AIG. This uses the builtin cache to enable automated subterm sharing.
+-/
+def mkNotCached (aig : AIG α) (gate : Ref aig) : Entrypoint α :=
+  -- ¬x = true && invert x
```
Comment (semorrison) [inline src/Std/Sat/AIG/CachedGates.lean:25]:
```suggestion
```

File: src/Std/Sat/AIG/CachedGates.lean [hunk 55]
```diff
@@ -0,0 +1,189 @@
...
+          intros
+          apply LawfulOperator.le_size_of_le_aig_size (f := mkConstCached)
+          omega
+        inv := true
+      }
+    }
+
+@[inline]
+def BinaryInput.asGateInput {aig : AIG α} (input : BinaryInput aig) (linv rinv : Bool)
+    : GateInput aig :=
```
Comment (semorrison) [inline src/Std/Sat/AIG/CachedGates.lean:46]:
```suggestion
def BinaryInput.asGateInput {aig : AIG α} (input : BinaryInput aig) (linv rinv : Bool) :
    GateInput aig :=
```

File: src/Std/Sat/AIG/CachedGates.lean [hunk 56]
```diff
@@ -0,0 +1,189 @@
...
+        inv := false
+      }
+      rhs := {
+        ref := gate.cast <| by
+          intros
+          apply LawfulOperator.le_size_of_le_aig_size (f := mkConstCached)
+          omega
+        inv := true
+      }
+    }
```
Comment (semorrison) [inline src/Std/Sat/AIG/CachedGates.lean:42]:
```suggestion
    { lhs := 
      { ref := constRef
        inv := false }
      rhs := 
      { ref := gate.cast <| by
          intros
          apply LawfulOperator.le_size_of_le_aig_size (f := mkConstCached)
          omega
        inv := true } }
```
I guess we don't have a definitive style rule on this. Mathlib does it this way...

File: src/Std/Sat/AIG/CachedLemmas.lean [hunk 57]
```diff
@@ -0,0 +1,340 @@
...
+Copyright (c) 2024 Lean FRO, LLC. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Henrik Böving
+-/
+import Std.Sat.AIG.Cached
+
+/-!
+This module contains the theory of the cached AIG node creation functions.
+It is mainly concerned with proving lemmas about the denotational semantics of the gate functions
+in different scenarios. In particular reductions to the semantics of the non cached versions.
```
Comment (semorrison) [inline src/Std/Sat/AIG/CachedLemmas.lean:11]:
```suggestion
in different scenarios, in particular reductions to the semantics of the non cached versions.
```

File: src/Std/Sat/AIG/LawfulOperator.lean [hunk 58]
```diff
@@ -0,0 +1,155 @@
...
+    -/
+    size_le : decls1.size ≤ decls2.size
+    /--
+    The prefix and the other array must agree on all elements up until the bound of the prefix
+    -/
+    idx_eq : ∀ idx (h : idx < decls1.size), decls2[idx]'(by omega) = decls1[idx]'h
+
+/--
+If `decls1` is a prefix of `decls2` and we start evaluating `decls2` at an
+index in bounds of `decls1` we can evluate at `decls1`.
```
Comment (semorrison) [inline src/Std/Sat/AIG/LawfulOperator.lean:34]:
```suggestion
index in bounds of `decls1` we can evaluate at `decls1`.
```

File: src/Std/Sat/AIG/LawfulOperator.lean [hunk 59]
```diff
@@ -0,0 +1,155 @@
...
+      congr 2
+      . apply denote.go_eq_of_IsPrefix
+        assumption
+      . apply denote.go_eq_of_IsPrefix
+        assumption
+termination_by start
+
+variable {α : Type} [Hashable α] [DecidableEq α]
+
+@[inherit_doc denote.go_eq_of_IsPrefix ]
```
Comment (semorrison) [inline src/Std/Sat/AIG/LawfulOperator.lean:68]:
```suggestion
@[inherit_doc denote.go_eq_of_IsPrefix]
```

**Comment by semorrison** [comment]
❤️

File: src/Std/Sat/AIG/Cached.lean (hunk 27 above)
[the remark this answers is not in the document]
Comment (hargoniX) [reply src/Std/Sat/AIG/Cached.lean:96]: Work to be done later.

File: src/Std/Sat/AIG/CachedGates.lean (hunk 56 above)
Comment (TwoFX) [reply src/Std/Sat/AIG/CachedGates.lean]: FWIW, I looked at this a few weeks ago and came to the conclusion that Lean uses the original style quite consistently, while mathlib exclusively uses the style you suggested. So I believe that it would be more consistent to format it the way Henrik had it originally.

File: src/Std/Sat/AIG/Basic.lean (hunk 41 above)
Comment (hargoniX) [reply src/Std/Sat/AIG/Basic.lean:231]: `Bool` is a single bit and just like that an `Ref` is a single bit but encoded with the AIG. Similarly `BitVec` is a collection of bits and `RefVec` is a collection of bits that are encoded within the AIG.

File: src/Std/Sat/AIG/CachedGates.lean (hunk 56 above)
Comment (hargoniX) [reply src/Std/Sat/AIG/CachedGates.lean]: I'm happy to change it either way, just need a clear decision^^.

File: src/Std/Sat/AIG/LawfulOperator.lean [hunk 60]
```diff
@@ -0,0 +1,155 @@
...
+    /--
+    The prefix and the other array must agree on all elements up until the bound of the prefix
+    -/
+    idx_eq : ∀ idx (h : idx < decls1.size), decls2[idx]'(by omega) = decls1[idx]'h
+
+/--
+If `decls1` is a prefix of `decls2` and we start evaluating `decls2` at an
+index in bounds of `decls1` we can evaluate at `decls1`.
+-/
+theorem denote.go_eq_of_IsPrefix (decls1 decls2 : Array (Decl α)) (start : Nat) {hdag1} {hdag2}
```
Comment (TwoFX) [inline src/Std/Sat/AIG/LawfulOperator.lean:36]: This should be called `denote.go_eq_of_isPrefix` (the rule is that in theorem names, each component should start with a lowercase letter). Please check that you adhere to this rule everywhere.

File: src/Std/Sat/AIG/Basic.lean [hunk 61]
```diff
@@ -0,0 +1,510 @@
...
+-/
+
+variable {α : Type} [Hashable α] [DecidableEq α]
+
+namespace AIG
+
+/--
+A circuit node. These are not recursive but instead contain indices into an `AIG`, with inputs indexed by `α`.
+-/
+inductive Decl (α : Type) where
```
Comment (TwoFX) [inline src/Std/Sat/AIG/Basic.lean:25]: I don't think this needs changing, but is there a reason why you are not universe-polymorphic here?

File: src/Std/Sat/AIG/CachedGates.lean (hunk 56 above)
Comment (TwoFX) [reply src/Std/Sat/AIG/CachedGates.lean]: I think there is no clear consensus in the existing Lean codebase at the moment (including mixing different styles within the same style), so I think in the interest of making progress I suggest leaving things as you have them now and not losing too much time on this as long as they adhere to one of these styles. However, neither style should have an opening brace on its own line (so [this](https://github.com/leanprover/lean4/pull/4953/files#diff-86e39419197a4029f16533cec6041c2f9c1d08882e2e4007609f78a06b27620cR72-R73) is not okay), and within a declaration you should stick to one style (so [this](https://github.com/leanprover/lean4/pull/4953/files#diff-05f9943490c5a32907d1aec86f0c49bc9002579f8c383a574f8afaf6463a0fb8R29-R37) is not okay).

**Review by TwoFX — APPROVED** [review]
We could probably spend more time nitpicking here and there but I don't think there is much point, so let's get this merged after these final remarks.

File: src/Std/Sat/AIG/Basic.lean (hunk 61 above)
Comment (hargoniX) [reply src/Std/Sat/AIG/Basic.lean:25]: No particular reason.
